US04229461
A mixture of 1.61 g of ethyl thiazolidine-2-carboxylic acid ethyl ester thus obtained, 2.04 g of 3,5-dichlorophenylisothiocyanate and 20 ml of toluene was heated at 90° C. for 1 hour. Then the reaction mixture was cooled and the precipitate was separated by filtration to give 3.11 g (yield 85.1%) of 3-(3,5-dichlorophenylthiocarbamoyl)thiazolidine-2-carboxylic ethyl ester. The melting point was 170.5°-171.5° C. and the results of elementary analysis were as follows: Found (calculated in parentheses): C 42.68% (42.74%), H 3.93% (3.86%), N 7.70% (7.67%), Cl 19.32% (19.41%).

reactant | ethyl thiazolidine-2-carboxylic acid ethyl ester | 1.61 g | C(C)OC(=O)C1(SCCN1)CC | C8H15NO2S
reactant | 3,5-dichlorophenylisothiocyanate | 2.04 g | ClC=1C=C(C=C(C1)Cl)N=C=S | C7H3Cl2NS
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3,5-dichlorophenylthiocarbamoyl)thiazolidine-2-carboxylic ethyl ester | 3.11 g, yield 85.1% | C(C)OC(=O)C1SCCN1C(NC1=CC(=CC(=C1)Cl)Cl)=S | C13H14Cl2N2O2S2
